2141-05-28 06:18:00 Physician Resident Progress Note
Chief Complaint: 53M with acute polyarticular arthritis and acute renal
   failure
   24 Hour Events:
 MULTI LUMEN - START [**2141-5-27**] 03:00 PM
   -Rheumatology was called for advise in managing this patient's gout.
   THey do not recommend treatment unless the patient is experiencing
   pain.
   -HCT bumped from 15-25 with three units of pRBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: Joint pain
   Flowsheet Data as of  [**2141-5-28**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 81 (75 - 93) bpm
   BP: 95/61(68) {88/57(66) - 106/70(79)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.3 kg (admission): 64.5 kg
   Height: 65 Inch
    CVP: 6 (5 - 10)mmHg
   Total In:
                                                                  5,302 mL
                                                                    436 mL
   PO:
                                                                    540 mL
   TF:
   IVF:
                                                                  1,087 mL
                                                                     61 mL
   Blood products:
                                                                    375 mL
                                                                    375 mL
   Total out:
                                                                  2,760 mL
                                                                    900 mL
   Urine:
                                                                  2,760 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,542 mL
                                                                   -464 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.31/27/37/11/-11
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   374 K/uL
   8.6 g/dL
   84 mg/dL
   3.0 mg/dL
   11 mEq/L
   2.8 mEq/L
   107 mg/dL
   105 mEq/L
   136 mEq/L
   25.0 %
   25.5 K/uL
        [image002.jpg]
                             [**2141-5-27**]  01:50 PM
                             [**2141-5-27**]  04:22 PM
                             [**2141-5-27**]  06:26 PM
                             [**2141-5-28**]  02:52 AM
   WBC
   24.7
   25.5
   Hct
   15.1
   25.0
   Plt
   384
   374
   Cr
   4.6
   3.8
   3.0
   TCO2
   14
   Glucose
   94
   101
   84
   Other labs: ALT / AST:15/74, Alk Phos / T Bili:199/1.3, Lactic Acid:0.9
   mmol/L, Albumin:2.8 g/dL, LDH:169 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.8 mg/dL
   Assessment and Plan
   53M with acute polyarticular arthritis and acute renal failure
   acute polyarticular arthritis: although joint distribution is not
   classic, polys and needle shaped crystals and negative gram stain on
   microscopy of joint fluid is c/w gout. given ARF, would avoid NSAIDs
   and colchicine. pt does not complain of pain at this time and says he
   wants to avoid medications; will hold steroids for now per discussio
   with rheum, not necessary to treat unless in pain.
   leukemoid reaction: suspect stress response from several days of acute
   inflammatory illness. Other DDX iclude infection vs malignancy, however
   history no consistent with thiese.
   -Continue to trend
   acute renal failure: BUN:Cr ratio > 20:1 and pt has not been taking
   adequate po x5 days, highly suggestive of prerenal azotemia. Cr down
   from 6.3 to 3.0 with 5L fluids, also consistent with prerenal azotemia.
   -IVF prn, otherwise encourage po
   anemia: Hct low despite significant volume contraction. macrocytic, no
   signs of active/obvious bleeding. guaiac all stools, but suspect
   alcohol bone marrow suppression + iron deficiency. plan to transfuse
   for Hct <21. will need outpt colonoscopy
   HTN: hold antihypertensives for now. restart once fully volume
   resuscitated and stable
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control:  Comments: Not needed
   Lines:
   Multi Lumen - [**2141-5-27**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2141-05-28 10:51:00 Physician Attending Progress Note
Chief Complaint: ARF, polyarticular arthritis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo M with h/o HTN and chronic etoh presents with acute polyaticular
   arthritis, ARF, gap met acidosis, hyponatremia, anemia and
   leukocytosis.  Seems that gout/polyarticular arthritis and pain led to
   decreased movement and po intake X days leading to arf and electrolyte
   abnl. WBC plts appear reactive.   Anemia issue more confusing and
   unclear what pt
s  baseline hct though denies hx of GIB.  Does not
   appear infected given hemodynami stability and no temp, neg jt gram st
   and neg u/a.
   24 Hour Events:
 MULTI LUMEN - START [**2141-5-27**] 03:00 PM
   Rheum c/s
   Fluid resus
   2 units PRBCs transfusion
   History obtained from Patient, HO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-28**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.9
C (96.7
   HR: 82 (75 - 93) bpm
   BP: 94/63(70) {88/56(66) - 106/70(79)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 100% (2L)
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.3 kg (admission): 64.5 kg
   Height: 65 Inch
   CVP: 8 (5 - 10)mmHg
   Total In:
                                                                  5,302 mL
                                                                  1,580 mL
   PO:
                                                                    540 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,087 mL
                                                                  1,105 mL
   Blood products:
                                                                    375 mL
                                                                    375 mL
   Total out:
                                                                  2,760 mL
                                                                  1,275 mL
   Urine:
                                                                  2,760 mL
                                                                  1,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,542 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.31/27/37/11/-11
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: L knee warm, b/l PIP jt swelling
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   374 K/uL
   84 mg/dL
   3.0 mg/dL
   11 mEq/L
   2.8 mEq/L
   107 mg/dL
   105 mEq/L
   136 mEq/L
   25.0 %
   25.5 K/uL
        [image002.jpg]
                             [**2141-5-27**]  01:50 PM
                             [**2141-5-27**]  04:22 PM
                             [**2141-5-27**]  06:26 PM
                             [**2141-5-28**]  02:52 AM
   WBC
   24.7
   25.5
   Hct
   15.1
   25.0
   Plt
   384
   374
   Cr
   4.6
   3.8
   3.0
   TCO2
   14
   Glucose
   94
   101
   84
   Other labs: ALT / AST:15/74, Alk Phos / T Bili:199/1.3, Lactic Acid:0.9
   mmol/L, Albumin:2.8 g/dL, LDH:169 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.8 mg/dL
   Fluid analysis / Other labs: lap penidng
   Imaging: no new film
   Microbiology: jt, bl cx's pending
   Assessment and Plan
   53 yo M with h/o HTN and chronic etoh presents with acute polyaticular
   arthritis, ARF, gap met acidosis, hyponatremia, anemia and
   leukocytosis.  Seems that gout/polyarticular arthritis and pain led to
   decreased movement and po intake X days leading to arf and electrolyte
   abnl. WBC plts appear reactive.   Anemia issue more confusing and
   unclear what pt
s  baseline hct though denies hx of GIB.  Does not
   appear infected given hemodynami stability and no temp, neg jt gram st
   and neg u/a.
   ? BM process with paraneoplastic syndrome or tumor lysis contributing
   to renal failure , but now with MSU crystals from jt tap c/w gout.
   # ARF
   -Gap metabolic acidosis
   appears prerenal, improving with IVF hydration
   follow lytes
   # relative hypotension
no bp med X days
   Fluid, blood, cx
s pending
   resolving
   # hyponatremia--in setting of hypovolemia,
   Normalized  with volume/blood, slow correction as chronic (likely high
   > 2 days)
   # etohism
monitor for withdraw, ciwa/valium,
   Banana bag-folate/thiamine
   # acute polyarticular arthritis
   Gout but atypical jt distribution/presentation and  sig u/a elevation
   gram stains from jts neg to suggest septic picture
   etoh likely predisposing factor, though tumor lysis in diff (though K
   ok and LDH not elevated)
   not candidate for nsaids or colchicine given renal failure
   consider prednisone pending further w/u
   rheum c/s
   # leukocytosis
appears reactive, ? leukemoid
   Pan cx
s pending, empiric ctx prior to jt tap but with neg gram stain
   LAP, check smear
   # anemia
appears hypovolemic responded to PRBCs
   Iron def, (ferritin high but acute phase rx), without evidence of
   hemolysis), etoh, (rx pattern of plt and wbc), without evidenc of
   bleeding
   Serial h/h
   Heme check stools
   # altered ms
unclear if baseline, ? confabulating (etoh vs dehydration,
   hypona, electrolyte abnl and uremia)
   Fluids, montior, tox neg
   #pain
minmal pain at this time, consider tylenol or gentle narcotics,
   pending furthe w/u
   # patellar abnl on xray
full knee films when acute process rsolves
   # htn
hold meds
   ICU Care
   Nutrition: POs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2141-5-27**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  stable for floor transfer
   Total time spent:  35

2141-05-29 07:00:00 Physician Resident Progress Note
Chief Complaint: Gout/Acute Renal Failure
   24 Hour Events:
   - rheum rec steroids for gout, severe tophaceous, switch to oral pred
   per their recs today
   - called out
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-29**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 94 (80 - 115) bpm
   BP: 108/84(88) {93/53(64) - 125/95(102)} mmHg
   RR: 20 (16 - 44) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.3 kg (admission): 64.5 kg
   Height: 65 Inch
    CVP: 8 (4 - 18)mmHg
   Total In:
                                                                  4,165 mL
                                                                     97 mL
   PO:
                                                                    400 mL
   TF:
   IVF:
                                                                  3,390 mL
                                                                     97 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,140 mL
                                                                    740 mL
   Urine:
                                                                  3,140 mL
                                                                    580 mL
   NG:
                                                                    160 mL
   Stool:
   Drains:
   Balance:
                                                                  1,025 mL
                                                                   -643 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///12/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   390 K/uL
   9.0 g/dL
   123 mg/dL
   2.2 mg/dL
   12 mEq/L
   2.7 mEq/L
   81 mg/dL
   111 mEq/L
   139 mEq/L
   26.2 %
   38.0 K/uL
        [image002.jpg]
                             [**2141-5-27**]  01:50 PM
                             [**2141-5-27**]  04:22 PM
                             [**2141-5-27**]  06:26 PM
                             [**2141-5-28**]  02:52 AM
                             [**2141-5-28**]  02:30 PM
                             [**2141-5-29**]  04:54 AM
   WBC
   24.7
   25.5
   27.8
   38.0
   Hct
   15.1
   25.0
   24.0
   26.2
   Plt
   384
   374
   340
   390
   Cr
   4.6
   3.8
   3.0
   2.6
   2.2
   TCO2
   14
   Glucose
   94
   101
   84
   92
   123
   Other labs: PT / PTT / INR:14.1/33.2/1.2, ALT / AST:15/74, Alk Phos / T
   Bili:199/1.3, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:169 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   53M with acute polyarticular arthritis and acute renal failure
   acute polyarticular arthritis: although joint distribution is not
   classic, polys and needle shaped crystals and negative gram stain on
   microscopy of joint fluid is c/w gout. given ARF, would avoid NSAIDs
   and colchicine. pt does not complain of pain at this time and says he
   wants to avoid medications; will hold steroids for now per discussio
   with rheum, not necessary to treat unless in pain.
   leukemoid reaction: suspect stress response from several days of acute
   inflammatory illness. Other DDX iclude infection vs malignancy, however
   history no consistent with thiese.
   -Continue to trend acute renal failure: BUN:Cr ratio > 20:1 and pt has
   not been taking adequate po x5 days, highly suggestive of prerenal
   azotemia. Cr down from 6.3 to 3.0 with 5L fluids, also consistent with
   prerenal azotemia.
   -IVF prn, otherwise encourage po
   anemia: Hct low despite significant volume contraction. macrocytic, no
   signs of active/obvious bleeding. guaiac all stools, but suspect
   alcohol bone marrow suppression + iron deficiency. plan to transfuse
   for Hct <21. will need outpt colonoscopy
   HTN: hold antihypertensives for now. restart once fully volume
   resuscitated and stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-5-27**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-05-29 11:06:00 Physician Attending Progress Note
Chief Complaint:  ARF, polyarticular arthritis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo M with h/o HTN and chronic etoh presents with acute polyaticular
   arthritis, ARF, gap met acidosis, hyponatremia, anemia and
   leukocytosis.
   24 Hour Events:
   rheum c/s
     --solumedrol started
   called out and awaiting bed
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-29**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 93 (80 - 115) bpm
   BP: 102/74(81) {93/53(64) - 125/95(102)} mmHg
   RR: 17 (17 - 44) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.3 kg (admission): 64.5 kg
   Height: 65 Inch
   CVP: 9 (4 - 18)mmHg
   Total In:
                                                                  4,165 mL
                                                                    448 mL
   PO:
                                                                    400 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,390 mL
                                                                    208 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,140 mL
                                                                    870 mL
   Urine:
                                                                  3,140 mL
                                                                    710 mL
   NG:
                                                                    160 mL
   Stool:
   Drains:
   Balance:
                                                                  1,025 mL
                                                                   -422 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///12/
   Physical Examination
   Nad
   w/o JVD
   MMM
   CTA
   RR, without m
   Obese, distended, NT, soft, + BS
   L knee with decreased swelling/erythema/and warmth
   Multiple DIP/PIPs remain swollen, red
   Peripheral Vascular: (Right radial pulse present), (Left radial
   pulse:present), (Right DP pulse:present), (Left DP pulse:present)
   Skin:  warm
   Neurologic: Responds to:verbal, Movement:purposeful, Tone: normal
   Labs / Radiology
   9.0 g/dL
   390 K/uL
   123 mg/dL
   2.2 mg/dL
   12 mEq/L
   2.7 mEq/L
   81 mg/dL
   111 mEq/L
   139 mEq/L
   26.2 %
   38.0 K/uL
        [image002.jpg]
                             [**2141-5-27**]  01:50 PM
                             [**2141-5-27**]  04:22 PM
                             [**2141-5-27**]  06:26 PM
                             [**2141-5-28**]  02:52 AM
                             [**2141-5-28**]  02:30 PM
                             [**2141-5-29**]  04:54 AM
   WBC
   24.7
   25.5
   27.8
   38.0
   Hct
   15.1
   25.0
   24.0
   26.2
   Plt
   384
   374
   340
   390
   Cr
   4.6
   3.8
   3.0
   2.6
   2.2
   TCO2
   14
   Glucose
   94
   101
   84
   92
   123
   Other labs: PT / PTT / INR:14.1/33.2/1.2, ALT / AST:15/74, Alk Phos / T
   Bili:199/1.3, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:169 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Imaging: no imaging
   Microbiology: bl cx jt cx ngtd
   Assessment and Plan
   53 yo M with h/o HTN and chronic etoh presents with acute polyaticular
   arthritis, ARF, gap met acidosis, hyponatremia, anemia and
   leukocytosis.
   Gout/polyarticular arthritis and pain led to decreased movement and po
   intake X days leading to arf and electrolyte abnl. WBC plts appear
   reactive.  Anemia issue more confusing and unclear  baseline hct though
   denies hx of GIB.  Does not appear infected given hemodynamic stability
   and no temp, neg jt gram st and neg u/a.
   ? BM process with paraneoplastic syndrome or tumor lysis contributing
   to renal failure (labs not fully c/w tumor lysis, diff not c/w leukemic
   malignancy)
   Main issues remain:
   # ARF
   # gap metabolic acidosis (uremia)
   Non gap component 2/2 ns resus, now with new diarrhea
   - continues to improve with hydration
   - follow lytes
   - check spep/upep
   # new diarrhea--check c diff
   # etohism
without signs of withdraw, ciwa,  last drink 8  days ago so
   at tail end of withdr  window
   -folate/thiamine/mvi
   # acute polyarticular arthritis
   Jt aspirate c/w Gout--atypical jt distribution/presentation and  w/ sig
   u/a elevation
   gram stains from jts asp neg to suggest septic picture
   etoh likely predisposing factor, labs not c/w  tumor lysis, given
   anemia and arf initiating malignancy w/u
   -- avoid nsaids or colchicine given renal failure
   - solumedrol
   - rheum following
   # leukocytosis
appears reactive, ? leukemoid--diff not c/w
   Trending down now up slightly likely [**2-11**] steroids
   -Pan cx
s pending --ngtd
   -LAP, blood smear pending
   # anemia
unclear etiology--? [**2-11**] poor nutrition/etoh
   Iron def, (ferritin high but acute phase rx), without evidence of
   hemolysis, etoh, (rx pattern of plt and wbc), without evidence of
   bleeding
   - Heme check stools
   - spep/upep
   # ? altered ms
appears at  baseline
   ? confabulating on admit (etoh vs dehydration, hypona, electrolyte abnl
   and uremia)
   tox neg
   #pain
minimal pain at this time, consider Tylenol, steroids
   # patellar abnl on x-ay
full knee films when acute process resolves
   ICU Care
   Nutrition: POs
   Glycemic Control:  not indicated
   Lines:
   Multi Lumen - [**2141-5-27**] 03:00 PM
   Comments: PIVs
 then pull central line
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for Transfer to floor, social work c/s
   Total time spent: 40 minutes

2141-05-29 16:28:00 Physician Resident Progress Note
Chief Complaint: gout, Acute renal failure
   24 Hour Events:
 CALLED OUT
   - Rheum: Steroids for gout
   - Called out
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-5-29**] 04:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 98 (80 - 106) bpm
   BP: 119/88(96) {94/53(64) - 125/95(102)} mmHg
   RR: 22 (17 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.3 kg (admission): 64.5 kg
   Height: 65 Inch
    CVP: 8 (4 - 18)mmHg
   Total In:
                                                                  4,165 mL
                                                                  1,063 mL
   PO:
                                                                    400 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  3,390 mL
                                                                    583 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,140 mL
                                                                  1,550 mL
   Urine:
                                                                  3,140 mL
                                                                  1,240 mL
   NG:
                                                                    310 mL
   Stool:
   Drains:
   Balance:
                                                                  1,025 mL
                                                                   -487 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///12/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   403 K/uL
   9.0 g/dL
   123 mg/dL
   2.2 mg/dL
   12 mEq/L
   2.7 mEq/L
   81 mg/dL
   111 mEq/L
   139 mEq/L
   27.2 %
   40.5 K/uL
        [image002.jpg]
                             [**2141-5-27**]  01:50 PM
                             [**2141-5-27**]  04:22 PM
                             [**2141-5-27**]  06:26 PM
                             [**2141-5-28**]  02:52 AM
                             [**2141-5-28**]  02:30 PM
                             [**2141-5-29**]  04:54 AM
                             [**2141-5-29**]  02:44 PM
   WBC
   24.7
   25.5
   27.8
   38.0
   40.5
   Hct
   15.1
   25.0
   24.0
   26.2
   27.2
   Plt
   384
   374
   340
   390
   403
   Cr
   4.6
   3.8
   3.0
   2.6
   2.2
   TCO2
   14
   Glucose
   94
   101
   84
   92
   123
   Other labs: PT / PTT / INR:14.1/33.2/1.2, ALT / AST:15/74, Alk Phos / T
   Bili:199/1.3, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:169 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   53M with acute polyarticular arthritis and acute renal failure
   acute polyarticular arthritis: although joint distribution is not
   classic, polys and needle shaped crystals and negative gram stain on
   microscopy of joint fluid is c/w gout. given ARF, would avoid NSAIDs
   and colchicine. pt does not complain of pain at this time and says he
   wants to avoid medications; will hold steroids for now per discussio
   with rheum, not necessary to treat unless in pain.
   -          Dose IV solumedrol today
   -          PO Prednisone tomorrow.
   leukemoid reaction: suspect stress response from several days of acute
   inflammatory illness. Other DDX iclude infection vs malignancy, however
   history no consistent with thiese.
   -Continue to trend
   - Concern for malignancy, check smear, Differential, C. Diff
   acute renal failure: BUN:Cr ratio > 20:1 and pt has not been taking
   adequate po x5 days, highly suggestive of prerenal azotemia. Cr down
   from 6.3 to 2.2  with 5L fluids, also consistent with prerenal
   azotemia.
   -IVF prn, otherwise encourage po
   anemia: Hct low despite significant volume contraction. macrocytic, no
   signs of active/obvious bleeding. guaiac all stools, but suspect
   alcohol bone marrow suppression + iron deficiency. plan to transfuse
   for Hct <21. will need outpt colonoscopy
   - Concern for malignancy, checl LAP today.
   HTN: hold antihypertensives for now. restart once fully volume
   resuscitated and stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-5-27**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: